US05244487
To a suspension of 50 mol of isopropanol containing N,O-dimethylhydroxylamine hydrochloride (3.97 g, 40.0 mmol) was added dropwise 5.56 ml of triethylamine. After 5 minutes, there was added 2.68 g (10.0 mmol) of N-(3-bromopropyl)phthalimide and the mixture was refluxed for 33 hours. This was cooled to room temperature, then poured into 200 ml of saturated aqueous solution of sodium bicarbonate and extracted with chloroform. The organic layer was separated and was washed with water and dried over magnesium sulfate. Chloroform was distilled off and the residue was purified by column chromatography on silica gel. Development with 30% hexane-chloroform resulted in elution of 1.03 g of N-(3-chloropropyl)phthalimide and further development with chloroform resulted in 1.21 g (yield: 53%) of white crystals of N-[3-(N-methoxy-N-methylamino)propyl]-phthalimide.

reactant | isopropanol | 50 mol | C(C)(C)O | C3H8O
reactant | N,O-dimethylhydroxylamine hydrochloride | 40.0 mmol, 3.97 g | Cl.CNOC
reactant | N-(3-bromopropyl)phthalimide | 10.0 mmol, 2.68 g | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | triethylamine | 5.56 ml | C(C)N(CC)CC | C6H15N
product | N-(3-chloropropyl)phthalimide | 1.03 g | ClCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10ClNO2
